US05412097
Step 2: Preparation of 6-[(1-oxopentyl)amino]-2-butyl-5-methylimidazo[4,5-b]pyridine
A mixture of 2-amino-3,5-dinitro-4-methylpyridine (5.2 g, 26 mmol), THF (100 mL), methanol (1300 mL) and Raney-nickel (3 mL of a 1:1 suspension in H2O) was stirred under H2 (1 atm.) for 5 h. The mixture was quickly filtered into a flask containing 3 ml of conc. HCl and the solvent was removed in vacuo at r.t. To the resulting crude 2,3,5-triamino-6-methylpyridine HCl complex was added valeric acid (8.68 mL, 80 mmol) and polyphosphoric acid (100 mL) and this mixture was heated to 80° C. for 7 h. The warmed mixture was poured into stirred ice-H2O (500 mL) and this mixture was cooled and neutralized (to pH 3) by the addition of conc. NH4OH. Extraction with CH2Cl2 (5×50 mL), drying (Na2SO4), concentration and purification (SiO2, 5% MeOH/EtOAc) gave the title compound as a solid.

reactant | 2-amino-3,5-dinitro-4-methylpyridine | 26 mmol, 5.2 g | NC1=NC=C(C(=C1[N+](=O)[O-])C)[N+](=O)[O-] | C6H6N4O4
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | valeric acid | 80 mmol, 8.68 mL | C(CCCC)(=O)O | C5H10O2
reactant | NH4OH | [NH4+].[OH-]
reactant | methanol | 1300 mL | CO | CH4O
solvent | H2O | O | H2O
catalyst | Raney-nickel | [Ni] | Ni
product | 6-[(1-oxopentyl)amino]-2-butyl-5-methylimidazo[4,5-b]pyridine | O=C(CCCC)NC=1C=C2C(=NC1C)N=C(N2)CCCC | C16H24N4O
